US05849753
Step 1: Preparation of 2-amino-3-nitro-4,6-dimethylpyridine
6.0 g(0.04911 mole) of 2-amino-4,6-dimethyl pyridine was dissolved in 20 ml of conc. sulfuric acid. The reaction solution was cooled to 0° C. in an ice bath and thereto was added dropwise 2.3 ml(0.04911 mole) of conc. nitric acid diluted with 5 ml of conc. sulfuric acid over 10 minutes. The resultant was stirred for 30 minutes at 0° C. and then added into ice water slowly to terminate the reaction. The reaction solution was neutralized to pH 7-8 with 20% aqueous sodium hydroxide solution and extracted with ethyl acetate(100 ml×3). The organic layer was dried over sodium sulfate anhydride and concentrated under reduced pressure. The residue was recrystallized from methanol-ethyl acetate to obtain 4.26 g of the title compound as a yellow solid(yield 52%).

reactant | 2-amino-4,6-dimethyl pyridine | 0.04911 mole, 6.0 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | nitric acid | 0.04911 mole, 2.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 2-amino-3-nitro-4,6-dimethylpyridine | 4.26 g, yield 52% | NC1=NC(=CC(=C1[N+](=O)[O-])C)C | C7H9N3O2
